US08541588B2
2-(1-Methyl-1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenol
A solution of 5-[2-(benzyloxy)-5-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrazole (Preparation 534, 2.3 g, 6.6 mmol) in methanol (25 mL) was degassed with argon before the addition of palladium on carbon (10%, 230 mg). Reaction mixture was stirred at room temperature under hydrogen atmosphere (using a balloon) for 16 hours. After filtration through Celite™, filtrate was concentrated in vacuo to afford the title compound as a white solid, 1.6 g, 94% yield.

reactant | 5-[2-(benzyloxy)-5-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrazole | 6.6 mmol, 2.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)C1=CC=NN1C | C18H15F3N2O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 230 mg | [Pd] | Pd
product | 2-(1-Methyl-1H-pyrazol-5-yl)-4-(trifluoromethoxy)phenol | 94% yield | CN1N=CC=C1C1=C(C=CC(=C1)OC(F)(F)F)O | C11H9F3N2O2
